US08476297B2
Step 1: 4-Nitrophenyl 6-chloropyridin-3-ylcarbamate
To a solution of 5-amino-2-chloropyridine (162 mg, 1262 μmol) and DIEA (275 μL, 1578 mmol) in DCM (6.0 mL) was added 4-nitrophenyl chloroformate (212 mg, 1052 μmol). The resulting mixture was then stirred at RT for overnight. A yellow precipitation was observed. The yellow solid was collected by filtration to give the title compound as a light yellow solid, which was used in the next step without purification requirement.

reactant | 5-amino-2-chloropyridine | 1262 μmol, 162 mg | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | DIEA | 1578 mmol, 275 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 1052 μmol, 212 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitrophenyl 6-chloropyridin-3-ylcarbamate | ClC1=CC=C(C=N1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H8ClN3O4
